US06596716B2
Methyl 1-(4-butylphenyl)cyclopropanecarboxylate
4 g (19.4 mmol) of Methyl 4-tert-butylphenylacetate, 39 mg (1.0 m, 2 Eq.) of lithium bis(trimethylsilyl)amide, and 3 g (2 Eq.) of 1-bromo-2-chloroethane in 100 mL dry THF were reacted as described in Preparation 11, except that the reaction mixture was stirred for one hour at ambient temperature before work-up. This reaction yielded 4.21 g of a brown oil. This material was purified via silica gel chromatography eluting with a gradient solvent of hexane to hexane/EtOAc 19:1 to yield the title compound 1.57 g (35%) as a pale yellow solid m.p. 58°-60° C. Calculated for C15H20O2: Theory: C, 77.37; H, 8.81 Found: C, 77.54; H, 8.68.

reactant | Methyl 4-tert-butylphenylacetate | 19.4 mmol, 4 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=O)OC | C13H18O2
reactant | 1-bromo-2-chloroethane | 3 g, 2 Eq. | BrCCCl | C2H4BrCl
reactant | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | lithium bis(trimethylsilyl)amide | 39 mg, 2 Eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | Methyl 1-(4-butylphenyl)cyclopropanecarboxylate | 4.21 g | C(CCC)C1=CC=C(C=C1)C1(CC1)C(=O)OC | C15H20O2
